US08791255B2
The product is prepared according to the procedure described in Example 5, using 260 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 358 mg of 4-fluoro-3-(trifluoromethyl)aniline in place of the 2,4-difluoroaniline. 222 mg of N-[4-fluoro-3-(trifluoromethyl)phenyl]-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 260 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 4-fluoro-3-(trifluoromethyl)aniline | 358 mg | FC1=C(C=C(N)C=C1)C(F)(F)F | C7H5F4N
product | N-[4-fluoro-3-(trifluoromethyl)phenyl]-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 222 mg | FC1=C(C=C(C=C1)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O)C(F)(F)F | C17H16F4N4O3
